data/oMe_Silver.jsonl
{"reaction_id": "NR-244_1-C(C)C_4-C=C","level": "easy","name": "Stork Enamine Synthesis","reactants_smiles": ["C(C(C)C)(=C)N1CCCC1","C(C=C)Br"],"products_smiles": ["C(=O)(C(C)C)CC(C=C)"],"conditions": "H2O","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C(C)C)(=[N+]1CCCC1)CC(C=C)","step_weight": 0,"rationale": "The enamine's electron-rich α-carbon attacks the electrophilic carbon in the alkyl halide via SN2, favored by the good leaving ability of bromide and minimal steric hindrance at the electrophilic site."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(C)C)(N1CCCC1)(CCC=C)[OH2+]","step_weight": 0,"rationale": "Water, activated by the iminium's strong electrophilicity, adds to the iminium carbon due to resonance stabilization of the positive charge on nitrogen, facilitating nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)C)([NH+]1CCCC1)(CCC=C)O","step_weight": 0,"rationale": "Proton transfer from the oxonium to nitrogen relieves positive charge on oxygen, stabilizing the intermediate and preparing for C–N bond cleavage."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)C)(=[OH+])CC(C=C)","step_weight": 0,"rationale": "Elimination of the amine occurs as nitrogen's lone pair reforms, expelling it as a leaving group; the driving force is formation of the strong C=O double bond."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C)C)CC(C=C)","step_weight": 0,"rationale": "Deprotonation of the protonated carbonyl restores neutrality, favored by the stability of the neutral ketone under aqueous conditions."}],"description": "The enamine acts as a nucleophile toward the alkyl halide via SN2, forming an iminium intermediate. Subsequent aqueous hydrolysis converts the iminium to a carbonyl through nucleophilic addition of water, proton transfers, and elimination, yielding the ketone product."}
{"reaction_id": "NR-212_1-C(F)(F)F_2-C(C)C_3-CC_4-C#N_5-C_6-CC","level": "easy","name": "Paterno-Buchi Reaction","reactants_smiles": ["C(C(F)(F)F)(C(C)C)=C(CC)(C#N)","O=C(C)(CC)"],"products_smiles": ["C1(C(F)(F)F)(C(C)C)C(C)(CC)OC1(CC)(C#N)"],"conditions": "hv","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C1(C(F)(F)F)(C(C)C)C(C)(CC)OC1(CC)(C#N)","step_weight": 0,"rationale": "UV light excites the carbonyl to a reactive state, allowing radical coupling with the alkene's π-bond; oxygen's electronegativity and π-overlap stabilize the diradical intermediate, favoring oxetane ring closure."}],"description": "Under UV irradiation, the carbonyl compound is excited to a singlet or triplet state, enabling [2+2] photocycloaddition with the alkene to form an oxetane. The reaction proceeds via radical intermediates stabilized by the oxygen and alkene π-system."}
{"reaction_id": "NR-033_1-OC(C)(C)C_2-OC_3-SC_4-S(=O)(=O)C_5-I_6-OC_7-C(C)(C)C","name": "Buchner Ring Expansion","level": "medium","reactants_smiles": ["N#[N+][CH-]C(=O)OC(C)(C)C","c1(OC)c(SC)c(S(=O)(=O)C)c(I)c(OC)c1(C(C)(C)C)"],"products_smiles": ["[CH](C(=O)OC(C)(C)C)1C(OC)=C(SC)C(S(=O)(=O)C)=C(I)C(OC)=C1C(C)(C)C"],"conditions": "heat/Metal","mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH]C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Heating with metal catalyst promotes nitrogen extrusion from the diazo group, forming a carbene stabilized by adjacent carbonyl resonance."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OC(C)(C)C)1C(OC)2C(SC)=C(S(=O)(=O)C)C(I)=C(OC)C2(C(C)(C)C)1","step_weight": 0,"rationale": "The electrophilic carbene adds to the electron-rich aromatic π-system, favored by carbene’s high reactivity and aromatic nucleophilicity."},{"step": 3,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "[CH](C(=O)OC(C)(C)C)1C(OC)=C(SC)C(S(=O)(=O)C)=C(I)C(OC)=C1C(C)(C)C","step_weight": 0,"rationale": "The strained bicyclic intermediate undergoes thermally allowed electrocyclic ring expansion to a more stable conjugated seven-membered ring."}],"description": "Under thermal and metal catalysis, the diazo ketone loses nitrogen to form a reactive carbene, which adds to the aromatic ring. The resulting bicyclic intermediate undergoes a pericyclic ring expansion, yielding the seven-membered ring product characteristic of the Buchner reaction."}
